US08609117B2
Synthesis of (+/−)(1R,2R)-2-pentyl-3-hydroxycyclopentaneethanol of formula
This compound was prepared in a way similar to that described in Example 2, by reacting methyl dihydrojasmonate in tetrahydrofuran with lithium aluminium hydride at 50° C. for 4 hours.

reactant | methyl dihydrojasmonate | CCCCCC1C(CCC1=O)CC(=O)OC | C13H22O3
reactant | lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | (+/−)(1R,2R)-2-pentyl-3-hydroxycyclopentaneethanol | C(CCCC)[C@@H]1[C@H](CCC1O)CCO | C12H24O2
